US07544689B2
(2-Fluoro-9H-purin-6-yl)-pyridin-2-ylmethyl-amine
To a stirred solution of 6-chloro-2-fluoropurine (0.4 g, 1 eq, 2.31 mmol) in n-BuOH (25 mL) under an argon atmosphere, cooled to 0° C., was added DIEA (1.13 mL, 2.80 eq, 6.49 mmol) followed by C-pyridin-2-yl-methylamine (0.48 mL, 2.0 eq, 4.66 mmol). The reaction mixture was stirred at 0° C. for 3 h, and then allowed to return to room temperature over 30 min. and stirred at this temperature for 1 h, when TLC (CHCl3:MeOH; 90:10) indicated that the reaction had gone to completion. The solvent was evaporated in vacuo and the residue partitioned between citric acid solution (200 mL, 10% aq.) and EtOAc (200 mL), the aqueous phase was separated and extracted with more EtOAc (2×100 mL), and the bulked organic phase containing traces of 6-chloro-2-fluoropurine was discarded. The pH of the aqueous phase was adjusted to 7.0 with NaOH solution (50% w/v, aq.), extracted with EtOAc (4×100 mL), and the bulked organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by gradient column chromatography on silica gel, eluted with CHCl3:MeOH (95:5→85:15), to afford the title compound as a light yellow solid. Yield: 0.40 g (71%). Mp 217-220° C. 1H-NMR (d6-DMSO, 250 MHz): δ4.58 (d, 2H, J=5.68 Hz, —HNCH2-Pyr), 7.29, 7.71, 8.49 (3×m, 4H, Pyr), 8.10 (s, 1H, —N═CH—NH—), 8.69 (bs, 1H, —HNCH2-Pyr), 13.07 (bs, 1H, —N═CH—NH13 ). FABMS m/z (relative intensity): 245 ([M+H]+, 55), 176 (30), 154 (100), 136 (85). Accurate Mass (M+H): Actual: 245.0951, Measured: 245.0942. Microanalysis (Expected: Measured) C11H9N6F .0.4H20: C; 52.55: 52.91, H; 3.93: 3.49, N; 33.42: 33.26.

reactant | 6-chloro-2-fluoropurine | 2.31 mmol, 0.4 g, 1 eq | ClC1=C2NC=NC2=NC(=N1)F | C5H2ClFN4
reactant | DIEA | 6.49 mmol, 1.13 mL, 2.80 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | C-pyridin-2-yl-methylamine | 4.66 mmol, 0.48 mL, 2.0 eq | N1=C(C=CC=C1)CN | C6H8N2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | n-BuOH | 25 mL | CCCCO | C4H10O
solvent | MeOH | CO | CH4O
product | (2-Fluoro-9H-purin-6-yl)-pyridin-2-ylmethyl-amine | FC1=NC(=C2N=CNC2=N1)NCC1=NC=CC=C1 | C11H9FN6
